US05872118
Aluminum chloride (139 g, 1.04 mol) was added to a solution of butyryl chloride (55.45 g, 0.520 mol, Aldrich) in dichloromethane (500 ml) stirring under a nitrogen atmosphere at 25° C. A solution of fluorobenzene (50.1 g, 0.521 mol, Aldrich) in dichloromethane was added and stirring was continued for 18 h. The reaction solution was poured over ice and extracted with dichloromethane (3×400 ml) . The combined dichloromethane extractions were washed with deionized water (2×250 ml), 1.0N hydrochloric acid (500 ml), saturated sodium bicarbonate solution (2×500 ml) and deionized water (4×250 ml),concentrated by spin evaporation in vacuo. This material was combined with material from a similar preparation (using 0.26 mol of fluorobenzene) for distillation. Distillation at reduced pressure gave 69.27 g (53%) of 4'-fluorobutyrophenone as a pale yellow liquid which later partially crystallized, b.p. 108°-112° C. at 30 millitorr: NMR (DMSO-d6): d 8.03 (q, 2H, J=9.0 Hz and 5.6 Hz), 7.31 (t, 2H, J=8.9 Hz), 2.97 (t, 2H, J=7.0 Hz), 1.65-1.55 (m, 2H), 0.91 (t, 3H, J=7.3 Hz).

reactant | Aluminum chloride | 1.04 mol, 139 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | butyryl chloride | 0.520 mol, 55.45 g | C(CCC)(=O)Cl | C4H7ClO
reactant | fluorobenzene | 0.521 mol, 50.1 g | FC1=CC=CC=C1 | C6H5F
reactant | fluorobenzene | 0.26 mol | FC1=CC=CC=C1 | C6H5F
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 4'-fluorobutyrophenone | 69.27 g, 53% | FC1=CC=C(C=C1)C(CCC)=O | C10H11FO
